US07696223B2
b) 3-Methyl-1-phenyl-1H-indole-2-carboxylic acid ethyl ester
Prepared in analogy to that of Example 1(a) from 3-methyl-1H-indole-2-carboxylic acid ethyl ester, iodobenzene, CuI, N,N′-dimethylethylenediamine, and potassium phosphate. 1H NMR (200 MHz, CDCl3): δ (ppm)=7.7-7.0 (m, 9H), 4.15 (q, 2H, J=7.1 Hz), 2.67 (s, 3H), 1.10 (t, 3H, J=7.1 Hz).

reactant | 3-methyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1C | C12H13NO2
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | N,N′-dimethylethylenediamine | CNCCNC | C4H12N2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | CuI | [Cu]I
product | 3-Methyl-1-phenyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1C)C1=CC=CC=C1 | C18H17NO2
